US07427630B2
N-{[3,4-Bis(methyloxy)phenyl]methyl}-N′-(2-chloroethyl)urea
To a solution of 3,4-dimethoxybenzylamine (2 g, 12 mmol) in anh. THF (25 mL), at r.t., under N2, was added 2-chloroethyl isocyanate (1.02 mL, 1 eq). The reaction was complete after the addition. It was concentrated and the residue was purified by flash chromatography (silica gel, cHex/EtOAc 1:1→7:3 EtOAc/NH3 (0.5 in MeOH)) to give the title compound as a white solid (2.9 g, 89%).

reactant | 3,4-dimethoxybenzylamine | 12 mmol, 2 g | COC=1C=C(CN)C=CC1OC | C9H13NO2
reactant | 2-chloroethyl isocyanate | 1.02 mL, 1 eq | ClCCN=C=O | C3H4ClNO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N-{[3,4-Bis(methyloxy)phenyl]methyl}-N′-(2-chloroethyl)urea | 2.9 g, 89% | COC=1C=C(C=CC1OC)CNC(=O)NCCCl | C12H17ClN2O3
